US08871884B2
2-Formyl-3-octoxythiophene (3′)
To the stirred solution of anhydrous DMF (10 mL) at 0° C. in 100 mL three neck flask under Nitrogen atmosphere, POCl3 (0.53 mL, 5.76 mmol) was added dropwise for 5 minutes. After addition, the reaction mixture was stirred at room temperature for 1 hour. Then 3-octyloxythiophene (1.02 g, 4.80 mmol) in 2 mL DMF was added dropwise at 0° C. for 5 minutes. This solution was stirred at 70° C. for 90 minutes and poured it into ice water and then slowly neutralized with 10% NaOH solution (20 mL). The resultant mixture was heated in a steam-bath for 20 min. The aqueous layer was extracted with CHCl3 (3×50 mL), followed by drying over anhydrous Na2SO4. After the removal of solvents, the crude mixture was chromatographed on silica gel (10% ethyl acetate in hexane) to give 3′ as a colourless oil. (1.0 g, 86%). 1H NMR (CDCl3, 300 MHz, ppm): δ 10.01 (s, 1H), 7.62 (d, 1H, 5.4 Hz), 6.84 (d, 1H, 5.4 Hz), 4.15 (t, 2H, 6.6 Hz), 1.76-1.86 (m, 2H), 1.29-1.46 (m, 10H), 0.89 (t, 3H, 6.6 Hz). M/e 240.12.

reactant | POCl3 | 5.76 mmol, 0.53 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 3-octyloxythiophene | 4.80 mmol, 1.02 g | C(CCCCCCC)OC1=CSC=C1 | C12H20OS
reactant | NaOH | 20 mL | [OH-].[Na+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Formyl-3-octoxythiophene | C(=O)C=1SC=CC1OCCCCCCCC | C13H20O2S
